* source LAB4
E_U1         N01138 0 VALUE {LIMIT(V(N01092,N00137)*1E6,-20V,+20V)}
R_R1         N00137 N01138  9k TC=0,0 
V_V1         N00132 0 1Vdc
R_R3         0 N00137  1k TC=0,0 
R_R4         N01092 N00132  1k TC=0,0 
V_V3         N00931 0 2Vdc
R_R5         N01092 N00931  2k TC=0,0 
V_V4         N01044 0 3Vdc
R_R6         N01092 N01044  5k TC=0,0 
